US20010020034A1
3-(4-Bromo-2,6-difluoro-benzyloxy)-5-[3-(4-pyrrolidin-1-yl-butyl)-ureido]-isothiazole-4-carboxylic acid amide
The title compound was prepared from [3-(4-bromo-2,6-difluoro-benzyloxy)-4-carbamoyl-isothiazol-5-yl]-carbamic acid phenyl ester and 4-pyrrolidin-1-yl-butylamine by the procedure analogous to Example 1. MS (APCl, m/z): 532 and 534 [M+H]+.

reactant | [3-(4-bromo-2,6-difluoro-benzyloxy)-4-carbamoyl-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C=C1F)Br)F)C(N)=O)=O | C18H12BrF2N3O4S
reactant | 4-pyrrolidin-1-yl-butylamine | N1(CCCC1)CCCCN | C8H18N2
product | 3-(4-Bromo-2,6-difluoro-benzyloxy)-5-[3-(4-pyrrolidin-1-yl-butyl)-ureido]-isothiazole-4-carboxylic acid amide | BrC1=CC(=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCN2CCCC2)C(=C1)F)F | C20H24BrF2N5O3S
